US03985896
To a suspension of 33.3 g. (0.146 mol.) of 1-(2-carboxyethenyl)-4-methoxynaphthalene in 500 ml. of chloroform was added dropwise a solution of 8.05 ml. (0.146 mol.) of bromine in 125 ml. of methylene chloride. The solvent was removed, a solution of 31 g. (0.292 mol.) of sodium carbonate in 300 ml. of water was added to the residue and the mixture was refluxed for 2 hours. After cooling, the mixture was extracted with methylene chloride, the layers were separated and the organic phase was washed with water and saturated sodium chloride solution, dried (MgSO4) and evaporated to dryness to give 1-(2-bromoethenyl)-4-methoxynaphthalene.

reactant | 1-(2-carboxyethenyl)-4-methoxynaphthalene | 0.146 mol | C(=O)(O)C=CC1=CC=C(C2=CC=CC=C12)OC | C14H12O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | bromine | 0.146 mol | BrBr | Br2
reactant | sodium carbonate | 0.292 mol | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2-bromoethenyl)-4-methoxynaphthalene | BrC=CC1=CC=C(C2=CC=CC=C12)OC | C13H11BrO
